US05194617
A solution of 24 mg (0.17 mmols) of potassium carbonate and 1 ml of water was added to a solution of 60 mg (0.17 mmols) of 2-(trans-2-nonenyl)-3-methyl-4-acetoxy-6-fluoroquinoline in 8 ml of methanol and stirred at room temperature for 10 minutes. This solution was neutralized with 1N hydrochloric acid, after which the solvent was distilled off under reduced pressure, followed by addition of 10 ml of chloroform, washing with water and drying with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the resultant residue was purified by silica gel column chromatography (solvent: n-hexane : ethyl acetate=1:1) to obtain 46 mg (yield 87 %) of 2-(trans-2-nonenyl)-3-methyl-6-fluoro-4-quinolone.

reactant | potassium carbonate | 0.17 mmols, 24 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1 ml | O | H2O
reactant | 2-(trans-2-nonenyl)-3-methyl-4-acetoxy-6-fluoroquinoline | 0.17 mmols, 60 mg | C(\C=C\CCCCCC)C1=NC2=CC=C(C=C2C(=C1C)OC(C)=O)F | C21H26FNO2
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
product | 2-(trans-2-nonenyl)-3-methyl-6-fluoro-4-quinolone | 46 mg, yield 87 % | C(\C=C\CCCCCC)C1=NC2=CC=C(C=C2C(C1C)=O)F | C19H24FNO
